US04200577
7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-hydroxycoumarin
Hydrogenation of 7-(3-[4-acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-benzyloxycoumarin (3.42 g; 0.0066 mole) in DMF (60 ml) at atmospheric pressure using 10% palladinized charcoal afforded the title compound; 2.86 g as a tlc pure foam. (DMSO); 9.13 (3H, t, J 6.7 Hz); 8.59 (2H, m) 7.40 (3H, s); 7.40 (2H, m); 6.30 (1H, broad exchangeable); 5.75 (5H, s); 4.75 (1H, broad exchangeable); 4.50 (1H, exchangeble) 3.30 (1H, d, J 9.3Hz); 3.01 (2H, m); 2.23 (1H, d, J 9.6 Hz); 2.15 (1H, d, J 9.3Hz); 1 low field sharp exchangeable. Molecular ion at m/e 428.

reactant | 7-(3-[4-acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-benzyloxycoumarin | 0.0066 mole, 3.42 g | C(C)(=O)C1=C(C(=C(OCC(COC2=CC=C3C(=CC(OC3=C2)=O)OCC2=CC=CC=C2)O)C=C1)CCC)O | C30H30O8
reactant | charcoal | C | CH4
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-hydroxycoumarin | C(C)(=O)C1=C(C(=C(OCC(COC2=CC=C3C(=CC(OC3=C2)=O)O)O)C=C1)CCC)O | C23H24O8
